US04044135
1-(2-Furoyl)-Hexahydro-1,4-Diazepine
70 g. hexahydro-1,4-diazepine was dissolved in 160 ml. water. Hydrochloric acid (20%) was added until the pH was 5.5. Using a pH meter to keep the pH between 4.5 and 5.5, 79.5 g. furoyl chloride was added in portions along with 25% sodium hydroxide. After addition, 50% sodium hydroxide was added to raise the pH to 9.5. The solution was extracted with chloroform 4 times, the chloroform extracts dried over anhydrous potassium carbonates and the solution distilled giving 53.24 g. product. b.p. 125° - 130°

reactant | hexahydro-1,4-diazepine | N1CCNCCC1 | C5H12N2
reactant | Hydrochloric acid | Cl | ClH
reactant | furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(2-Furoyl)-Hexahydro-1,4-Diazepine | O1C(=CC=C1)C(=O)N1CCNCCC1 | C10H14N2O2
